OpAmp Test

vddp vp 0 15
vddn vn 0 0
voff off 0 -1

*vin in 0 0

.include ad22057n.lib

* Node assignments
*                non-inverting input
*                |  inverting input
*                |  |  positive supply
*                |  |  |  negative supply
*                |  |  |  |  A1 out
*                |  |  |  |  |  A2 in
*                |  |  |  |  |  |  offset
*                |  |  |  |  |  |  |  output
*                |  |  |  |  |  |  |  |
*SUBCKT AD22057N 1  2  99 50 30 31 40 49
Xopmap in 0 vp vn a1 a1 off outo AD22057N

Rout outo a1 200k
Ca1 a1 0 500p
 
.dc vin 0.1 0.2 0.01

vin in 0 DC 0 PULSE(0.1 0.2 200uS 200uS 200uS 5m 10m)
.tran 10u 1m

.control
run
plot dc1.v(outo) vs dc1.v(in)
plot v(in)  v(a1) v(outo)
quit
.endc


.end

